Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
pneumoperitoneum 
 
Major Surgical or Invasive Procedure:
 revision of ileocolonic anastomosis/ileocolonic resection

 
History of Present Illness:
Ms. ___ is a ___ with history of cecal volvulus s/p right 
hemicolectomy in ___ at ___, presents with a CT scans showing 
pneumoperitoneum and pneumotosis intestinalis. Patient has had 
chronic abdominal pain since her surgery and describes acute 
post prandial episodes. On ___ she developed acute onset of 
abdominal pain after dinner. She then had an episode of diarrhea 
which improved her pain. She has been tolerating a diet since 
but repots not having a bowel movement since her pain. She had 
another episode of pain this morning but was not as bad. Patient 
saw PCP today who referred her in for CT scan showing 
pneumoperitoneum and pneumatosis intestinalis at the surgical 
anastomosis site concerning for bowel perforation. Patient 
otherwise denies any fevers, chills, nausea, vomiting, chest 
pain, shortness of breath, urinary symptoms. Of note, she has 
not had a period in 6 months. 
 
Past Medical History:
PMH: Cecal volvulus

PSH: Hemicolectomy ___
 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
Discharge Physical Exam:

VS: 98.9, 107/55, 51, 16, 98%/RA 
GEN: NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR, No JVD
PULM: normal excursion, no respiratory distress
ABD: soft, NT, ND, no mass, no hernia, midline incision well 
approximated with dermabond- c/d/i
EXT: WWP, no CCE, 2+ B/L radial
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect
 
Pertinent Results:
___ 01:05PM BLOOD WBC-15.4* RBC-3.65* Hgb-11.5 Hct-34.6 
MCV-95 MCH-31.5 MCHC-33.2 RDW-13.2 RDWSD-45.2 Plt ___
___ 07:45PM BLOOD WBC-7.0 RBC-4.12 Hgb-12.8 Hct-38.6 MCV-94 
MCH-31.1 MCHC-33.2 RDW-12.9 RDWSD-44.3 Plt ___
___ 07:45PM BLOOD Neuts-57.9 ___ Monos-10.1 Eos-1.3 
Baso-0.4 Im ___ AbsNeut-4.05 AbsLymp-2.12 AbsMono-0.71 
AbsEos-0.09 AbsBaso-0.03
___ 01:05PM BLOOD Plt ___
___ 07:45PM BLOOD ___ PTT-32.0 ___
___ 07:45PM BLOOD Plt ___
___ 01:05PM BLOOD Glucose-145* UreaN-10 Creat-0.7 Na-140 
K-4.1 Cl-106 HCO3-23 AnGap-11
___ 07:45PM BLOOD Glucose-80 UreaN-16 Creat-0.9 Na-142 
K-4.4 Cl-106 HCO3-24 AnGap-12
___ 07:45PM BLOOD ALT-25 AST-22 AlkPhos-63 TotBili-0.2
___ 01:05PM BLOOD Calcium-8.1* Phos-4.2 Mg-1.9
___ 07:45PM BLOOD Albumin-4.6
___ 07:45PM BLOOD Lactate-0.8

CT ABD & PELVIS WITH CONTRAST Study Date of ___ 2:29 ___ 
IMPRESSION:  
  
Pneumatosis intestinalis involving the right colon extending 
from the level of the enterocolonic anastomosis in the right mid 
abdomen through the mid transverse colon, with associated tiny 
volume pneumoperitoneum.  The differential for pneumatosis 
intestinalis includes bowel ischemia though given patient age, 
consider alternative etiologies such as inflammatory bowel 
disease, medication induced pneumatosis or connective tissue 
disorders. 

 
Brief Hospital Course:
Ms. ___ was sent to the emergency department at ___ on 
___ with CT scan significant for pneumoperitoneum and 
pneumatosis intestinalis. She was taken to the operating room on 
___ for an open right colectomy with side-to-side ileocolonic
anastomosis. She tolerated the procedure well without 
complications (Please see operative note for further details). 
After a brief and uneventful stay in the PACU, the patient was 
transferred to the floor for further post-operative management.
Neuro: Pain was well controlled on Tylenol and tramadol for 
breakthrough pain.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. She had good 
pulmonary toileting, as early ambulation and incentive 
spirometry were encouraged throughout hospitalization.
GI: The patient was initially kept NPO after the procedure. The 
patient was advanced to and tolerated a regular diet. Patient's 
intake and output were closely monitored. Although she was 
passing gas, the patient was unable to have a bowel movement 
post surgery and was given milk of magnesia, miralax, and a 
glycerin suppository. Despite these medications, the patient was 
still unable to have a bowel movement. She was given two fleet 
enemas and began to have bowel movements. She is being 
discharged home with daily miralax. 
GU: The patient had a Foley catheter that was removed prior to 
discharge. At time of discharge, the patient was voiding without 
difficulty. Urine output was monitored as indicated.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever, of which there was none.
Heme: The patient received subcutaneous heparin and ___ dyne 
boots during this stay. She was encouraged to get up and 
ambulate as early as possible. 
On ___, the patient was discharged to home. At discharge,she 
was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. She will follow-up in the clinic in 
___ weeks. This information was communicated to the patient 
directly prior to discharge.
Post-Surgical Complications During Inpatient Admission:
[ ] Post-Operative Ileus resolving w/o NGT
[ ] Post-Operative Ileus requiring management with NGT
[ ] UTI
[ ] Wound Infection
[ ] Anastomotic Leak
[ ] Staple Line Bleed
[ ] Congestive Heart failure
[ ] ARF
[ ] Acute Urinary retention, failure to void after Foley D/C'd
[ ] Acute Urinary Retention requiring discharge with Foley 
Catheter
[ ] DVT
[ ] Pneumonia
[ ] Abscess
[x] Constipation
[ ] None
Social Issues Causing a Delay in Discharge:
[ ] Delay in organization of ___ services
[ ] Difficulty finding appropriate rehab hospital disposition.
[ ] Lack of insurance coverage for ___ services
[ ] Lack of insurance coverage for prescribed medications.
[ ] Family not agreeable to discharge plan.
[ ] Patient knowledge deficit related to ileostomy delaying 
dispo
[x] No social factors contributing in delay of discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  TraMADol 50-100 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cecal volvulus here with pneumoperitoneum and pneumotosis 
instestinalis of unclear origin 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital after a revision of 
ileocolonic anastomosis/ileocolonic resection for surgical 
management of your pneumatosis intestinalis of unclear origin. 
You have recovered from this procedure and you are now ready to 
return home.  

Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to discharge which is 
acceptable; however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patients to have some decrease in bowel function 
but you should not have prolonged constipation. However, you may 
have loose stool and passing of small amounts of dark, old 
appearing blood. If you notice that you are passing bright red 
blood with bowel movements or having large amounts of loose 
stool without improvement please call the office or go to the 
emergency room. While taking narcotic pain medications you are 
at risk for constipation, please take an over the counter stool 
softener such as Colace.

You have a long vertical surgical incisions on your abdomen. It 
is important that you monitor these areas for signs and symptoms 
of infection including: increasing redness of the incision 
lines, white/green/yellow/foul smelling drainage, increased pain 
at the incision, increased warmth of the skin at the incision, 
or swelling of the area.

Pain is expected after surgery. This will gradually improve over 
the first week or so you are home.  You should continue to take 
2 Extra Strength Tylenol (___) for pain every 8 hours around 
the clock. Please do not take more than 3000mg of Tylenol in 24 
hours or any other medications that contain Tylenol such as cold 
medication. Do not drink alcohol while taking Tylenol.  You may 
also take Advil (Ibuprofen) 600mg every 8 hours for 7 days. 
Please take Advil with food. If these medications are not 
controlling your pain to a point where you can ambulate and 
perform minor tasks, you should take a dose of the narcotic pain 
medication tramadol.  Please do not take sedating medications, 
drink alcohol, or drive while taking the narcotic pain 
medication. 

You may feel weak or "washed out" for up to 6 weeks after 
surgery. Do not lift greater than a gallon of milk for 3 weeks. 
At your post op appointment, your surgical team will clear you 
for heavier exercise.  In the meantime, you may climb stairs and 
go outside and walk.  Please avoid traveling long distances 
until you speak with your surgical team at your post-op visit.   


Thank you for allowing us to participate in your care, we wish 
you all the best! 

 
Followup Instructions:
___